US06228861B1
A suspension of benzyl 2-[(3,4-difluorophenyl)methylene]-3-oxo-4-methoxybutyrate (60 g, 0.181 mol), O-methylisourea hemisulfate (46.77 g, 0.271 mol, 1.5 eq.), and sodium bicarbonate (53.25 g, 0.634 mol, 3.5 eq.) in ethanol (400 mL) was stirred at 50-55° C. for 6 h. The solvent was evaporated from the combined filtrates and the residue was purified by column chromatography (SiO2, EtOAc/hexane, 10%-30%) to give 5-benzyloxycarbonyl-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine as a pale yellow oil (24.7 g, 35%).

reactant | benzyl 2-[(3,4-difluorophenyl)methylene]-3-oxo-4-methoxybutyrate | 0.181 mol, 60 g | FC=1C=C(C=CC1F)C=C(C(=O)OCC1=CC=CC=C1)C(COC)=O | C19H16F2O4
reactant | O-methylisourea hemisulfate | 0.271 mol, 46.77 g, 1.5 eq. | S(=O)(=O)(O)O.COC(N)=N.COC(N)=N
reactant | sodium bicarbonate | 0.634 mol, 53.25 g, 3.5 eq. | C([O-])(O)=O.[Na+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 5-benzyloxycarbonyl-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine | 24.7 g, 35% | C(C1=CC=CC=C1)OC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)COC | C21H20F2N2O4
